US07449481B2
A mixture of polyphosphoric acid (10 g) in chlorobenzene (260 mL) was heated to reflux and added, under nitrogen, dropwise in one hour 1-bromo-4-(2,2-dimethoxy-ethylsulfanyl)-benzene (compound PRE12; 9.71 g, 35 mmol). The reaction mixture was then heated for 4 h until reaction is complete, cooled, quenched with water (150 mL) and extracted into methylene chloride. Combined organic layer was dried over Na2SO4 and concentrated to give a crude residue that was purified by flash chromatography (silica, eluting solvent: petroleum ether) to give 3.8 g of 5-bromo-benzo[b]thiophene (white solid) (Yield=51%).

reactant | 1-bromo-4-(2,2-dimethoxy-ethylsulfanyl)-benzene | 35 mmol, 9.71 g | BrC1=CC=C(C=C1)SCC(OC)OC | C10H13BrO2S
solvent | chlorobenzene | 260 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-bromo-benzo[b]thiophene | 3.8 g, Yield=51% | BrC1=CC2=C(SC=C2)C=C1 | C8H5BrS
